US08563721B2
Preparation of 3-[(triisopropylsilyl)oxy]-17-(cyclopropylmethyl)-4,5a-epoxy-14-hydroxyl-6-(1,3-dioxolan-2-yl)morphinan
17-(cyclopropylmethyl)-4,5a-epoxy-3,14-dihydroxy-6-(1,3-dioxolan-2-yl)morphinan (3.85 g, 10 mmol) was dissolved in 20 ml of methylene chloride, then imidazole (0.68 g, 10 mmol) and triisopropylchlorosilane (1.92 g, 10 mmol) were added with stirring. The whole system was refluxed to react for 4 hours. After the reaction was complete, water was added for extraction and then extracted with methylene chloride for 3 times. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated for crystallization to afford a white solid.

reactant | 17-(cyclopropylmethyl)-4,5a-epoxy-3,14-dihydroxy-6-(1,3-dioxolan-2-yl)morphinan | 10 mmol, 3.85 g | C1(CC1)CN1[C@H]2[C@@]3(CCC([C@H]4[C@@]3(C=3C(=C(C=CC3C2)O)O4)CC1)C1OCCO1)O | C23H29NO5
reactant | imidazole | 10 mmol, 0.68 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylchlorosilane | 10 mmol, 1.92 g | C(C)(C)[Si](Cl)(C(C)C)C(C)C | C9H21ClSi
reactant | water | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-[(triisopropylsilyl)oxy]-17-(cyclopropylmethyl)-4,5a-epoxy-14-hydroxyl-6-(1,3-dioxolan-2-yl)morphinan | C(C)(C)[Si](OC=1C=CC=2C[C@@H]3[C@@]4(CCC([C@H]5[C@@]4(C2C1O5)CCN3CC3CC3)C3OCCO3)O)(C(C)C)C(C)C | C32H49NO5Si
